US09102684B2
8-Bromo-9b-phenyl-2,3-dihydro-9bH-oxazolo[2,3-a]isoindol-5-one
To a solution of 2-Benzoyl-4-bromo-benzoic acid (100 mg; 0.33 mmol) in N,N-dimethylformamide (1 ml) with N,N-Diisopropylethylamine (127 μl; 0.98 mmol) is added HATU (137 mg; 0.36 mmol). It is stirred at ambient temperature for 5 minutes before ethanolamine (21 μl; 0.33 mmol) is added. After 4 hours the reaction mixture is purified via reversed phase chromatography under basic conditions. The received 5-Bromo-3-hydroxy-2-(2-hydroxy-ethyl)-3-phenyl-2,3-dihydro-isoindol-1-one is taken up in 1 ml toluene and treated with p-Toluenesulfonic acid monohydrate (3 mg; 0.02 mmol) at 120° C. for 2 days. It is purified via reversed phase chromatography under basic conditions.

reactant | 2-Benzoyl-4-bromo-benzoic acid | 0.33 mmol, 100 mg | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Br | C14H9BrO3
reactant | N,N-Diisopropylethylamine | 0.98 mmol, 127 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 0.36 mmol, 137 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethanolamine | 0.33 mmol, 21 μl | C(O)CN | C2H7NO
reactant | p-Toluenesulfonic acid monohydrate | 0.02 mmol, 3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 8-Bromo-9b-phenyl-2,3-dihydro-9bH-oxazolo[2,3-a]isoindol-5-one | BrC1=CC=C2C(N3C(C2=C1)(OCC3)C3=CC=CC=C3)=O | C16H12BrNO2
